US04659365
The procedures of Example 2 were repeated except that the starting material was 16.0 g (79 mmol) of 3-difluoromethoxy-2-nitrotoluene as dissolved in 100 ml of ethanol. As a result, 13.0 g of 2-difluoromethoxy-6-methyl aniline was obtained.

reactant | 3-difluoromethoxy-2-nitrotoluene | 79 mmol, 16.0 g | FC(OC=1C(=C(C=CC1)C)[N+](=O)[O-])F | C8H7F2NO3
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-difluoromethoxy-6-methyl aniline | 13.0 g | FC(OC1=C(N)C(=CC=C1)C)F | C8H9F2NO
